US06365750B1
Preparation of (4S-trans)-3-Benzoyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic Acid
(4S-trans)-3-Benzoyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid, ethyl ester (1.56 g) was dissolved in THF (10 ml) at room temperature and LiOH (4.63 ml, 1M in H2O) was added dropwise. Initially, a bi-phasic mixture was observed, but after the addition of the last quantity of LiOH and stirring for 5 minutes the solution became homogeneous. After further stirring for ½ hour, the reaction mixture was quenched with aqueous 1N HCl (4.63 ml), and diluted with EtOAc and saturated NaCl. The H2O layer (pH=3) was twice extracted with EtOAc, and the combined organic phase dried with MgSO4. The solvent was removed in vacuo to give 1.39 g of the title product acid (97%) which was homogeneous by TLC and 1H NMR.

reactant | (4S-trans)-3-Benzoyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid, ethyl ester | 1.56 g | C(C1=CC=CC=C1)(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OCC)(C)C | C21H23NO4
reactant | LiOH | 1M, 4.63 ml | [Li+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (4S-trans)-3-Benzoyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic Acid | 1.39 g | C(C1=CC=CC=C1)(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)(C)C | C19H19NO4
